US07968746B2
A solution of 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (500 mg, 2.00 mmol) in 10 mL THF was treated with 358 mg CDI and stirred for 1.25 h at room temperature. To this clear yellow solution was added a solution of 278 mg 1-(3-aminopropyl)imidazole in 10 mL THF over 1 h. The solution was stirred overnight at room temperature, concentrated to a pale brown oil, dissolved into 70 mL CH2Cl2, washed 1×50 mL saturated NaCl, and dried over Na2SO4. The organic layers were concentrated and flashed chromatographed to yield 524 mg of N-(3-(1H-imidazol-1-yl)propyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide as a white crystalline solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 500 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 358 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-(3-aminopropyl)imidazole | 278 mg | NCCCN1C=NC=C1 | C6H11N3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(3-(1H-imidazol-1-yl)propyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 524 mg | N1(C=NC=C1)CCCNC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C20H27N3O3
